US07977331B1
A suspension of N-tert-butyl-4-((E)-2-dimethylaminovinyl)-3-nitrobenzenesulfonamide (5.41 g, 16.5 mmol) and 7.5% palladium/carbon (500 mg) in tetrahydrofuran (50 ml) and ethanol (50 ml) was stirred at room temperature for 3.5 hr under a hydrogen atmosphere of 3.5 atm. The reaction mixture was filtered through celite and the filtrate was concentrated under reduced pressure. Ethyl acetate was added to the residue, and the mixture was successively washed with 1N hydrochloric acid and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure to give N-tert-butyl-1H-indole-6-sulfonamide (3.62 g, yield 87.1%).

reactant | N-tert-butyl-4-((E)-2-dimethylaminovinyl)-3-nitrobenzenesulfonamide | 16.5 mmol, 5.41 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)\C=C\N(C)C)[N+](=O)[O-] | C14H21N3O4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
product | N-tert-butyl-1H-indole-6-sulfonamide | 3.62 g, yield 87.1% | C(C)(C)(C)NS(=O)(=O)C1=CC=C2C=CNC2=C1 | C12H16N2O2S
